US03996229
In a manner analogous to that described in Example 1, from 8,10-dichloro-10,11-dihydro-3-methoxy-dibenzo[b,f]thiepin and N-(2-propynyl)-piperazine there is obtained 1-[8-chloro-10,11-dihydro-3-methoxy-dibenzo[b,f]thiepin-10-yl]-4-(2-propynyl)-piperazine, the dimethanesulfonate of which melts at 177°-180° C.

reactant | 8,10-dichloro-10,11-dihydro-3-methoxy-dibenzo[b,f]thiepin | ClC=1C=CC2=C(C(CC3=C(S2)C=C(C=C3)OC)Cl)C1 | C15H12Cl2OS
reactant | N-(2-propynyl)-piperazine | C(C#C)N1CCNCC1 | C7H12N2
product | 1-[8-chloro-10,11-dihydro-3-methoxy-dibenzo[b,f]thiepin-10-yl]-4-(2-propynyl)-piperazine | ClC=1C=CC2=C(C(CC3=C(S2)C=C(C=C3)OC)N3CCN(CC3)CC#C)C1 | C22H23ClN2OS
